US04670042
2-(4-Fluoro-3-nitrophenyl)-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione (5.8 g) was added to a mixture of glycine methyl ester hydrochloride (7.5 g), triethylamine (6 g) and 1,4-dioxane (50 ml), and the resultant mixture was heated under reflux for 4 hours, followed by addition of water and extraction with ethyl acetate. The extract was washed with water, dried and concentrated. The residue was crystallized from methanol to give 2-(4-methoxycarbonylmethylamino-3-nitrophenyl)-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione (2.6 g). m.p., 220° C.

reactant | 2-(4-Fluoro-3-nitrophenyl)-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione | 5.8 g | FC1=C(C=C(C=C1)N1C(C=2CCCCC2C1=O)=O)[N+](=O)[O-] | C14H11FN2O4
reactant | glycine methyl ester hydrochloride | 7.5 g | Cl.COC(CN)=O
reactant | triethylamine | 6 g | C(C)N(CC)CC | C6H15N
reactant | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-(4-methoxycarbonylmethylamino-3-nitrophenyl)-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione | 2.6 g | COC(=O)CNC1=C(C=C(C=C1)N1C(C=2CCCCC2C1=O)=O)[N+](=O)[O-] | C17H17N3O6
